US04013692
As an illustration of an acid hydrolysis of nitrile intermediates a mixture of 5 g. of 3-phenyl-7-benzofuranacetonitrile in 30 ml. of acetic acid, 20 ml. of water and 20 ml. of sulfuric acid is stirred and heated at reflux overnight. On cooling and diluting with water one obtains 3-phenyl-7-benzofuranacetic acid, purified by crystallization from benzenehexane.

reactant | 3-phenyl-7-benzofuranacetonitrile | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC#N | C16H11NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-phenyl-7-benzofuranacetic acid | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)O | C16H12O3
